US05698554
9.61 g of hydrazine monohydrate was added to an ethanol solution (500 ml) containing 15.06 g of 4-(2-methyl-4-phthalimidobutyl)-1-(3-hydroxycarbonylpropionyl)benzene, and the mixture was refluxed under heating for 2.5 hours. After cooling, precipitated crystal was collected by filtration and recrystallized from ethyl acetate to obtain 8.14 g of 6-[4-(4-amino-2-methylbutyl)phenyl]-4,5-dihydropyridazin-3 (2H)-one.

reactant | hydrazine monohydrate | 9.61 g | O.NN
reactant | 4-(2-methyl-4-phthalimidobutyl)-1-(3-hydroxycarbonylpropionyl)benzene | 15.06 g | CC(CC1=CC=C(C=C1)C(CCC(=O)O)=O)CCN1C(C=2C(C1=O)=CC=CC2)=O | C23H23NO5
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 6-[4-(4-amino-2-methylbutyl)phenyl]-4,5-dihydropyridazin-3 (2H)-one | 8.14 g | NCCC(CC1=CC=C(C=C1)C=1CCC(NN1)=O)C | C15H21N3O
